US09370522B2
BBr3 (1.26 g, 5.02 mmol, 10.00 equiv) was added dropwise with stifling at 0° C. to a solution of 7-hydroxy-2,3-bis(4-methoxyphenyl)quinoxaline-6-carboxylic acid (200 mg, 0.50 mmol, 1.00 equiv) in DCM (20 mL) in a 50-mL round-bottom flask. The resulting solution was allowed to react, with stirring, overnight at room temperature. The reaction was quenched by the addition of 10 mL of 1N (aq) NaOH. The pH of the solution was adjusted to 3-4 with HCl (1M). The solution was extracted with 2×100 mL of CH2Cl2: MeOH (10:1), and the organic layers combined and concentrated under vacuum, yielding 120 mg (64%) of 7-hydroxy-2,3-bis(4-hydroxyphenyl)quinoxaline-6-carboxylic acid as a red solid.

reactant | BBr3 | 5.02 mmol, 1.26 g, 10.00 equiv | B(Br)(Br)Br | BBr3
reactant | 7-hydroxy-2,3-bis(4-methoxyphenyl)quinoxaline-6-carboxylic acid | 0.50 mmol, 200 mg, 1.00 equiv | OC1=C(C=C2N=C(C(=NC2=C1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C(=O)O | C23H18N2O5
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 7-hydroxy-2,3-bis(4-hydroxyphenyl)quinoxaline-6-carboxylic acid | 120 mg, 64% | OC1=C(C=C2N=C(C(=NC2=C1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)C(=O)O | C21H14N2O5
